US04772312
A mixture of 5.1 g (0.015 mol) of 1-(3,5-dichloropyrid-2-yl)-4-nitro-5-bromopyrazole and 13.4 g (0.225 mol) of isopropylamine in 100 ml of methylene chloride is stirred at room temperature for 20 hours. The reaction mixture is evaporated in vacuo, the residue is taken up in 50 ml of methylene chloride and washed twice with 50 ml of water; the organic phase is dried over sodium sulphate and the solvent is distilled off in vacuo. The residue is crystallized by rubbing with petroleum ether, filtered off by suction and dried. 4.0 g (84.4% of theory) of 1-(3,5-dichloropyrid-2-yl)-4-nitro-5-isopropylaminopyrazole with a melting point of 123° C. are obtained.

reactant | 1-(3,5-dichloropyrid-2-yl)-4-nitro-5-bromopyrazole | 0.015 mol, 5.1 g | ClC=1C(=NC=C(C1)Cl)N1N=CC(=C1Br)[N+](=O)[O-] | C8H3BrCl2N4O2
reactant | isopropylamine | 0.225 mol, 13.4 g | C(C)(C)N | C3H9N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,5-dichloropyrid-2-yl)-4-nitro-5-isopropylaminopyrazole | 4.0 g, 84.4% | ClC=1C(=NC=C(C1)Cl)N1N=CC(=C1NC(C)C)[N+](=O)[O-] | C11H11Cl2N5O2
